US04833143
A solution of 2-bromopyridine (4.8 g) in dry ether (30 ml) was added to a 1.7M solution of butyllithium in hexane (18 ml) at -78° C. with stirring. After one hour at that temperature a solution of 1-(4-biphenylyl)cyclobutanecarbonitrile (4 g) in a mixture of dry ether (80 ml) and dry tetrahydrofuran (10 ml) was added and the temperature allowed to rise to 0° C. After cooling to -20° C., methanol (20 ml) and then water (30 ml) were added dropwise. The aqueous mixture was extracted with ether and the ether extract washed, dried and evaporated to give [1-(4-biphenylyl)cyclobutyl](pyrid-2-yl)methanimine as an orange oil. The oil was dissolved in propan-2-ol (200 ml) and heated under reflux with sodium borohydride (2.0 g) for five hours. Water was added and the propan-2-ol removed by evaporation. The aqueous residue was extracted with ether. Hydrogen chloride gas was passed into the dried ether extract to give a gum which was heated with propan-2-ol to give a white solid which was recrystallised from a mixture of methanol and propan-2-ol to give [1-(4-biphenylyl)cyclobutyl](pyrid-2-yl)methylamine dihydrochloride hydrate (m.p. 240° C. (dec)).

reactant | 2-bromopyridine | 4.8 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | butyllithium | C(CCC)[Li]
reactant | 1-(4-biphenylyl)cyclobutanecarbonitrile | 4 g | C1(=CC=C(C=C1)C1(CCC1)C#N)C1=CC=CC=C1 | C17H15N
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | hexane | 18 ml | CCCCCC | C6H14
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | water | 30 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | [1-(4-biphenylyl)cyclobutyl](pyrid-2-yl)methanimine | C1(=CC=C(C=C1)C1(CCC1)C(=N)C1=NC=CC=C1)C1=CC=CC=C1 | C22H20N2
